US04273782
Acetic anhydride (0.20 g) was added dropwise to a stirred solution of 1-(2-aminoethyl)-3-(1-imidazolylmethyl)indole (0.48 g) in dry chloroform (10 ml) at room temperature. The solution was stirred for 10 minutes and then evaporated. The residue was stirred with aqueous sodium bicarbonate solution and the solid product was filtered off, washed with water, dried and crystallised from ethyl acetate/petrol (b.p. 60°-80° C.) to give 1-(2-acetylaminoethyl)-3-(1-imidazolylmethyl)indole (0.26 g), m.p. 126°-128° C. Found: C, 68.08; H, 6.43; N, 20.17. C16H18N4O requires: C, 68.06; H, 6.43; N, 19.85%.

reactant | Acetic anhydride | 0.20 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-(2-aminoethyl)-3-(1-imidazolylmethyl)indole | 0.48 g | NCCN1C=C(C2=CC=CC=C12)CC=1NC=CN1 | C14H16N4
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-acetylaminoethyl)-3-(1-imidazolylmethyl)indole | 0.26 g | C(C)(=O)NCCN1C=C(C2=CC=CC=C12)CC=1NC=CN1 | C16H18N4O
